US04448962
A mixture of 1-ethyl-6-fluoro-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.9 g), piperazine hexahydrate (15 g) and water (15 ml) was heated at 170° C. in a sealed tube for 16 hours. After evaporation of the solvent, the residue was acidified with diluted hydrochloric acid, heated at 100° C., and the hot solution was filtered. The filtrate was evaporated to dryness. The residue was dissolved in 10% sodium hydroxide and neutralized with acetic acid. The precipitate was collected, washed with water, dried, and recrystallized from ethanol to give 1-ethyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxoquinoline-3-carboxylic acid as colorless powder.

reactant | 1-ethyl-6-fluoro-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.9 g | C(C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C12H9ClFNO3
reactant | piperazine hexahydrate | 15 g | O.O.O.O.O.O.N1CCNCC1
solvent | water | 15 ml | O | H2O
product | 1-ethyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
